US04264595
Production of benzhydryl 4-bromo-2-hydroxyimino-3-oxobutyrate
In 30 ml of acetic acid there were dissolved 6.94 g of benzhydryl 4-bromo-3-oxobutyrate and, under ice-cooling and stirring, a solution of 1.588 g of sodium nitrite in 6 ml of water was added dropwise. The mixture was further stirred at that temperature for 20 minutes and, following addition of 60 ml of a saturated aqueous solution of sodium chloride, the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was removed under reduced pressure to recover 7.56 g of the captioned compound.

reactant | benzhydryl 4-bromo-3-oxobutyrate | 6.94 g | BrCC(CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H15BrO3
reactant | sodium nitrite | 1.588 g | N(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 6 ml | O | H2O
product | benzhydryl 4-bromo-2-hydroxyimino-3-oxobutyrate | BrCC(C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=NO)=O | C17H14BrNO4
